US04666916
To stirred solution of 79 g of 6-methoxy-2H-[1]benzopyran (J. Org. Chem. 1973, 38, 3832) and 17.6 g of cuprous iodide-trimethyl phosphite (Synthesis 1971, 658) in 400 ml toluene, is added at 103° 125 g dimethyl diazomalonate (Synthesis 1971, 658) over a period of 30 min. After stirring 1.5 h, the reaction mixture is cooled, filtered through Celite, concentrated under reduced pressure and flash chromatographed with ethyl acetate/hexane (3:7) to give cis-(±)-dimethyl 1,1a,2,7b-tetrahydro-6-methoxybenzo[b]cyclopropa[d]pyran-1,1-dicarboxylate.

reactant | 6-methoxy-2H-[1]benzopyran | 79 g | COC=1C=CC2=C(C=CCO2)C1 | C10H10O2
reactant | dimethyl diazomalonate | 125 g | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | cis-(±)-dimethyl 1,1a,2,7b-tetrahydro-6-methoxybenzo[b]cyclopropa[d]pyran-1,1-dicarboxylate | COC1=CC2=C(OC[C@H]3[C@@H]2C3(C(=O)OC)C(=O)OC)C=C1 | C15H16O6
